2152-09-24 06:21:00 Physician Resident Progress Note
Chief Complaint: 26F with history of depression, PTSD, borderline
   personality; admit with large ASA overdose.
   24 Hour Events:
   - patient intubated and dialized
   - D5W with 3 amps bicarb started to prevent central hypoglycemia and to
   alkalinize and assist in renal clearance of ASA
   - ASA levels: [**Medical Record Number 10322**]-38-15-7-17-31
   - CT head negative
   - KUB negative
   Allergies:
   Cogentin (Oral) (Benztropine Mesylate)
   Unknown;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dexmedetomidine (Precedex) - 0.3 mcg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2152-9-23**] 07:35 AM
   Fentanyl - [**2152-9-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2152-9-23**] 04:17 PM
   Pantoprazole (Protonix) - [**2152-9-23**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-9-24**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.8
C (98.2
   HR: 91 (81 - 144) bpm
   BP: 103/51(68) {91/45(60) - 115/60(75)} mmHg
   RR: 16 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  7,566 mL
                                                                  1,501 mL
   PO:
             TF:
   IVF:
                                                                  6,566 mL
                                                                  1,501 mL
   Blood products:
   Total out:
                                                                  5,200 mL
                                                                  1,085 mL
   Urine:
                                                                  3,650 mL
                                                                  1,010 mL
   NG:
                                                                    750 mL
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  2,366 mL
                                                                    416 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/35/213/25/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 533
   Physical Examination
   General: NAD, intubated & sedated, comfortable
   Lungs: faint crackles throughout (possibly transmitted upper airway
   sounds)
   Heart: RRR, no MRG
   Abdomen: soft, no HSM or palpable masses
   Extremities: NT, no CCE, DP 2+
   Labs / Radiology
   265 K/uL
   7.7 g/dL
   145 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.1 mEq/L
   5 mg/dL
   106 mEq/L
   139 mEq/L
   23.8 %
   9.1 K/uL
         [image002.jpg]
                             [**2152-9-23**]  12:31 PM
                             [**2152-9-23**]  01:41 PM
                             [**2152-9-23**]  02:35 PM
                             [**2152-9-23**]  04:05 PM
                             [**2152-9-23**]  05:37 PM
                             [**2152-9-23**]  05:53 PM
                             [**2152-9-23**]  08:16 PM
                             [**2152-9-23**]  11:01 PM
                             [**2152-9-24**]  03:11 AM
                             [**2152-9-24**]  03:30 AM
   WBC
   10.4
   9.1
   Hct
   26.1
   23.8
   Plt
   297
   265
   Cr
   0.5
   0.8
   TCO2
   33
   32
   34
   33
   34
   30
   30
   27
   Glucose
   118
   145
   Other labs: PT / PTT / INR:15.7/44.0/1.4, CK / CKMB /
   Troponin-T:198/3/<0.01, ALT / AST:31/98, Alk Phos / T Bili:52/0.2,
   Fibrinogen:319 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:4.1 g/dL, LDH:280
   IU/L, Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   26 yof w/ hx of depression, PTSD, borderline PD admitted s/p large ASA
   overdose
 responsive to dialysis but now with climbing ASA levels
   # ASA overdose: reported quantity near 80 grams
 ASA level down to 7
   with HD but now climbing back to 31 suggested continued absorption.
   - d/w renal threshold for HD if ASA level continues to rise
   - D5W with HCO3 for alkalemic pH and basic urine to facilitate renal
   clearance
   - KUB to evaluate for ileus
 concern for continued GI absorption if
   ASA is retained
   # Hypotension/tachycardia.  Patient initially presenting with
   hypotension s/p intubation requiring vasopression.  Patient remained
   off pressors all night.
   - f/u cultures, fever curve and WBC given multiple emergent invasive
   lines and possibility of aspiration
   - RSBI in 30
s and patient alert and following commands
 ready for
   extubation
   .
   # Fever.  Patient initially presenting with fever to 102
 has remained
   afebrile since [**9-23**] AM however high potential for multiple infectious
   sources including emergent lines and aspiration
   - f/u CXR for infiltrate
   - if continued spikes consider starting empiric broad spectrum coverage
   # Anemia: HCT trending down from 32.3 to now 23.8
   - large component likely dilutional considering fluids and lowering of
   platelets and WBC
 however it does seem to be
   disproportionate
 follow serial HCT and active T + S
   - guiac stools for concern of GIB in setting of ASA overdose
   # Suicidal attempt.  Long history of depression and SI/suicidal
   behavior.
   - psych and SW consult once extubated
   # FEN: IVFs, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, H2B
   # Access: CVL (low threshold to re-site)
   # Code: presumed full
   # Communication: unknown
   # Contacts: Lives @ [**Last Name (NamePattern1) 10307**] Group Home in [**Location (un) 341**] [**Telephone/Fax (1) 10308**]
   Psychiatrist Dr. [**First Name4 (NamePattern1) 1422**] [**Last Name (NamePattern1) **] @ MMHCTR {[**Telephone/Fax (1) 10309**]}
   She also works with Dr. [**First Name4 (NamePattern1) 4852**] [**Last Name (NamePattern1) 10310**] @ MMHCTR {pg [**Numeric Identifier 10311**]
   thru [**Hospital1 54**] pager{[**Telephone/Fax (1) 10312**]}
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-9-23**] 07:35 AM
   Arterial Line - [**2152-9-23**] 08:00 AM
   Dialysis Catheter - [**2152-9-23**] 08:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2152-09-25 07:07:00 Physician Resident Progress Note
Chief Complaint: c/o headache, frontal, over area where bangs head
   (history of "head banging"). only partially relieved with morphine.
   also c/o nausea and cannot take meds
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2152-9-24**] 10:50 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2152-9-24**] 10:53 AM
   -pt self extubated. re-wrote for psych meds, but nauseous all night so
   did not take today (stayed on presidex)
   -renal did not want to pull HD line tonight said to wait until AM in
   case need for HD arises
   -bicarb in PM was 7.56, switched fluids to 1amp NaHCO3/D5W, then low
   again to 7.46 at midnight, so increased back to 2amps
   -BRBPR in evening, Hct 22. Transfused one unit. GI aware, think its
   most likely from internal hemorrhoids. Asked for hemolysis labs.
   -ASA levels continue to trend down
   -Need to consult psych tomorrow AM
   Allergies:
   Cogentin (Oral) (Benztropine Mesylate)
   Unknown;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dexmedetomidine (Precedex) - 0.1 mcg/Kg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-9-24**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2152-9-24**] 05:33 PM
   Morphine Sulfate - [**2152-9-25**] 05:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-9-25**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37
C (98.6
   HR: 112 (100 - 133) bpm
   BP: 121/66(87) {94/47(61) - 137/71(93)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  7,522 mL
                                                                  1,291 mL
   PO:
             TF:
   IVF:
                                                                  7,172 mL
                                                                  1,291 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,560 mL
                                                                  1,800 mL
   Urine:
                                                                  5,485 mL
                                                                  1,800 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,962 mL
                                                                   -509 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Physical Examination
   General Appearance: uncomfortable
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   277 K/uL
   8.9 g/dL
   165 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.2 mEq/L
   4 mg/dL
   108 mEq/L
   141 mEq/L
   26.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2152-9-24**]  08:25 AM
                             [**2152-9-24**]  11:39 AM
                             [**2152-9-24**]  03:46 PM
                             [**2152-9-24**]  04:17 PM
                             [**2152-9-24**]  07:50 PM
                             [**2152-9-24**]  07:56 PM
                             [**2152-9-24**]  11:40 PM
                             [**2152-9-24**]  11:51 PM
                             [**2152-9-25**]  03:28 AM
                             [**2152-9-25**]  03:48 AM
   WBC
   7.5
   Hct
   22.8
   22.1
   26.4
   26.9
   Plt
   277
   Cr
   0.9
   0.7
   TCO2
   26
   29
   28
   28
   28
   29
   Glucose
   133
   165
   Other labs: PT / PTT / INR:16.3/37.7/1.4, CK / CKMB /
   Troponin-T:198/3/<0.01, ALT / AST:31/98, Alk Phos / T Bili:52/0.3,
   Fibrinogen:319 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:4.1 g/dL, LDH:624
   IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: 7.48/38/124/29
   Imaging: ct head [**9-23**]
   IMPRESSION: No evidence of cerebral edema or other acute intracranial
   abnormalities.
   Microbiology: [**2152-9-23**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2152-9-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2152-9-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2152-9-23**]  URINE URINE CULTURE-FINAL EMERGENCY [**Hospital1 **]
   Assessment and Plan
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 POISONING / OVERDOSE, SALICYLATES
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   26 yof w/ hx of depression, PTSD, borderline PD admitted s/p large ASA
   overdose
 responsive to dialysis but now with climbing ASA levels
   # ASA overdose: reported quantity near 80 grams
 ASA level now
   negative. Ran sodium bicarb in D5W varying from [**1-8**] amps to achieve pH
   goal of 7.5-7.55
   - dc bicarb
   - KUB was done to evaluate for ileus and was negative
 concern for
   continued GI absorption if ASA is retained
   -appreciate renal recs; will keep HD line in place for now, but will
   discuss if can pull today
   #Headache: Nausea, photophobia, and frontal headache. Unlike other
   headaches, no sinus tenderness, not relieved with IV morphine. Nonfocal
   neuro exam.
   -concern for cerebral edema (ASA overdose) or subdural hemorrhage (in
   light of head banging).  CT head on [**9-23**] showed no cerebral edema.
   -continue conservative management for now; consider CT head if still
   does not improve
   #Nausea
   -consider NGT for psych meds, however, pt seems to be taking them at
   this point
   -reglan and zofran
   # Hypotension/tachycardia.  Patient initially presenting with
   hypotension s/p intubation requiring vasopression.  Patient remained
   off pressors all night.
    -hypotension resolved; still borderline tachycardic, likely [**2-7**] pain
   from headache
   - f/u cultures, fever curve and WBC given multiple emergent invasive
   lines and possibility of aspiration; afebrile since 10am yesterday.
   .
   # Fever.  Patient initially presenting with fever to [**Age over 90 144**] yesterday
 has
   remained afebrile since [**9-24**] AM however high potential for multiple
   infectious sources including emergent lines and aspiration
   - f/u CXR for infiltrate
   - if continued spikes consider starting empiric broad spectrum coverage
   -pancultured this AM b/c no cultures drawn yesterday
   # Anemia: HCT trending down from 32.3 to 22; s/p 1 unit PRBC, also with
   BRBPR likely due to hemorrhoids
   - large component likely dilutional considering fluids and lowering of
   platelets and WBC
 however it does seem to be
   disproportionate
 follow serial HCT and active T + S
   - concern of GIB in setting of ASA overdose
   -GI aware
   -Q 12 HCT checks
   -PPI drip changed to po ppi
   # Suicidal attempt.  Long history of depression and SI/suicidal
   behavior.
   -has 1:1 sitter
   -call psych consult
   -social work following
   -stop presidex and restart psych meds when tolerating PO's or when
   place NGT
    # FEN: IVFs, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, PPI drip
   # Access: CVL (low threshold to re-site)
   # Code: presumed full
   # Communication: unknown
   # Contacts: Lives @ [**Last Name (NamePattern1) 10307**] Group Home in [**Location (un) 341**] [**Telephone/Fax (1) 10308**]
   Psychiatrist Dr. [**First Name4 (NamePattern1) 1422**] [**Last Name (NamePattern1) **] @ MMHCTR {[**Telephone/Fax (1) 10309**]}
   She also works with Dr. [**First Name4 (NamePattern1) 4852**] [**Last Name (NamePattern1) 10310**] @ MMHCTR {pg [**Numeric Identifier 10311**]
   thru [**Hospital1 54**] pager{[**Telephone/Fax (1) 10312**]}
   # Disposition: ICU for now, consider floor tonight
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-9-23**] 07:35 AM
   Arterial Line - [**2152-9-23**] 08:00 AM
   Dialysis Catheter - [**2152-9-23**] 08:49 AM
   20 Gauge - [**2152-9-24**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2152-09-26 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - groin arterial line and HD line pulled yesterday and cultured
   - renal recs: check and repleate I-Ca PRN
   - psychiatry recs:
      - stabilize medically
      - contact outpatient providers to clarify event sequence and
   identify role that
        psychiatric hospitalization would provide and end goals of care,
   continue 1:1
        observation, clarify role of DDAVP
   - patient called out to floor
   Allergies:
   Cogentin (Oral) (Benztropine Mesylate)
   Unknown;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-9-26**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 92 (89 - 119) bpm
   BP: 95/58(65) {92/48(57) - 103/64(70)} mmHg
   RR: 17 (13 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  3,282 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                  2,802 mL
   Blood products:
   Total out:
                                                                  6,585 mL
                                                                    580 mL
   Urine:
                                                                  6,585 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,303 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.42/40/96.[**Numeric Identifier 244**]//4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   309 K/uL
   9.1 g/dL
   165 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.4 mEq/L
   4 mg/dL
   108 mEq/L
   141 mEq/L
   28.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2152-9-24**]  07:50 PM
                             [**2152-9-24**]  07:56 PM
                             [**2152-9-24**]  11:40 PM
                             [**2152-9-24**]  11:51 PM
                             [**2152-9-25**]  03:28 AM
                             [**2152-9-25**]  03:48 AM
                             [**2152-9-25**]  08:27 AM
                             [**2152-9-25**]  08:51 AM
                             [**2152-9-25**]  02:56 PM
                             [**2152-9-26**]  03:51 AM
   WBC
   7.5
   8.1
   Hct
   22.1
   26.4
   26.9
   28.7
   28.6
   28.4
   Plt
   277
   309
   Cr
   0.7
   TCO2
   28
   28
   29
   29
   Glucose
   165
   Other labs: PT / PTT / INR:16.3/37.7/1.4, CK / CKMB /
   Troponin-T:198/3/<0.01, ALT / AST:31/98, Alk Phos / T Bili:52/0.3,
   Fibrinogen:319 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:4.1 g/dL, LDH:624
   IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Micro:
   - Blood, Urine and Catheter Tip IV
 pending
   - Urine [**9-23**] - contaminated
   Imaging:
   - CXR
 negative
   - AXR
 no obstruction or free air
   Assessment and
    Plan
   28 yof with h/o depression, PTSD, borderline PD s/p ASA overdose
   treated with HD
   # ASA overdose: reported quantity near 80 grams
 ASA level now
   negative and now evidence of ileus or concretion on KUB
   - dialysis catheter pulled
   #Headache: described as nausea, photophobia, frontal without sinus
   tenderness, unresponsive to morphine
   - continue conservative management
   #Nausea
   -consider NGT for psych meds, however, pt seems to be taking them at
   this point
   -reglan and zofran
   # Borderline Tachycardia: in setting of normotension and stable
   hematocrit, likely [**2-7**] pain
   - f/u cultures, fever curve and WBC given multiple emergent invasive
   lines and possibility of aspiration
   # Fever. last recorded fever of 101 at 1500 on [**9-24**]
 high potential
   for multiple infectious sources with multiple emergent lines and
   possible aspiration
   - f/u CXR
s for infiltrate - negative
   - f/u cultures, fever curve and WBC
   - consider broad spectrum antibiotics if continued fever spikes
   # Anemia: HCT initially trending down from 32.3 to 22 now stable at
   28.4 s/p 1 unit PRBC
s in setting of BRBPR that GI attributes to
   hemorrhoids
   - continue to follow with serial HCT in setting BRBPR with  ASA
   overdose
 possibility of GIB
   - continue PPI
   # Suicidal attempt.  Long history of depression and SI/suicidal
   behavior.
   - continue 1:1 sitter
   - f/u psychiatry consult, possible transfer to [**Hospital1 **] 4
   -social work following
   - continue home psychiatry meds
    # FEN: IVFs, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, PPI drip
   # Access: peripheral lines
   # Code: presumed full
   # Communication: unknown
   # Contacts: Lives @ [**Last Name (NamePattern1) 10307**] Group Home in [**Location (un) 341**] [**Telephone/Fax (1) 10308**]
   Psychiatrist Dr. [**First Name4 (NamePattern1) 1422**] [**Last Name (NamePattern1) **] @ MMHCTR {[**Telephone/Fax (1) 10309**]}
   She also works with Dr. [**First Name4 (NamePattern1) 4852**] [**Last Name (NamePattern1) 10310**] @ MMHCTR {pg [**Numeric Identifier 10311**]
   thru [**Hospital1 54**] pager{[**Telephone/Fax (1) 10312**]}
   # Disposition: floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-9-24**] 01:00 PM
   18 Gauge - [**2152-9-25**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: